US07842694B2
6-[(3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid
A solution of lithium hydroxide monohydrate (0.10 g, 4.17 mmol) in water (15 mL) was added to a solution of methyl 6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate (0.90 g, 1.67 mmol) in THF (30 mL). The mixture was allowed to stir at RT overnight. The THF was removed in vacuo and the resulting solution was partitioned between water (50 mL) and ethyl acetate (75 mL), then the ethyl acetate layer separated, washed with brine and dried (MgSO4). The aqueous layer was then taken to pH 7 by addition of 1N hydrochloric acid (5.2 mL) and extracted with ethyl acetate (75 mL). The ethyl acetate layer was separated, washed with brine and dried (MgSO4). The ethyl acetate layers were combined and evaporated to give the required product (0.84 g).

reactant | lithium hydroxide monohydrate | 4.17 mmol, 0.10 g | O.[OH-].[Li+]
reactant | methyl 6-[(3-[((1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylate | 1.67 mmol, 0.90 g | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC1=CC=C(C=N1)C(=O)OC)(C)C | C27H36N4O6Si
solvent | water | 15 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-[(3-[((1S)-2-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-methylethyl)oxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyridine-3-carboxylic acid | 0.84 g | CC(C)(C)[Si](OC[C@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC1=CC=C(C=N1)C(=O)O)(C)C | C26H34N4O6Si
